US08877760B2
A solution of 3,5-dichloropyrazine-2-carbonitrile (150 mg, 0.862 mmol), D-alaninamide hydrochloride (107 mg, 0.858 mmol) and DIEA (0.400 mL, 2.30 mmol) in NMP (4 mL) was stirred at room temperature for 20 h. Water and EtOAc were added. Organic phase was separated, dried over Na2SO4, concentrated in vacuo to give (R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)propanamide as an oil (194 mg).

reactant | 3,5-dichloropyrazine-2-carbonitrile | 0.862 mmol, 150 mg | ClC=1C(=NC=C(N1)Cl)C#N | C5HCl2N3
reactant | D-alaninamide hydrochloride | 0.858 mmol, 107 mg | Cl.N[C@H](C)C(=O)N
reactant | DIEA | 2.30 mmol, 0.400 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | NMP | 4 mL | CN1CCCC1=O | C5H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)propanamide | 194 mg | ClC1=C(N=CC(=N1)N[C@@H](C(=O)N)C)C#N | C8H8ClN5O
